Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])[H:11],-1.64199213891
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-3.7959279040900022
[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-2.17770026
[C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-3.42026105691
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.89433133253
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-1.89109049729
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],6.09260183505
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.91346750876
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:13]([C:10]([C:7]([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],1.0057650735
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.6837481076300005
[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14],4.04552550557
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.72187084845
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],0.74076434
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[C:8](=[O:7])[H:9]>>[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][O:7][C:8]1[H:9],2.72994832431
[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[H:1],3.81021200477
[H:1][C:2]#[C:3][O:5][C:6][O:7][H:8].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][H:8],-2.40483791326
[C:1].[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.36491186689
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.55723770661
[O:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],0.33525678075
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.84864666804
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8],2.91575276906
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8].[O:9][H:10],5.69458303357
[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.44376099215
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.4016395921
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.86595598051
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:3].[O:1]=[C:2][O:4][C:5]#[C:6][H:7],4.56883595834
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4],3.05871116926
[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.6981667950800015
[H:1][O:2][C:3]=[C:10]([H:11])[H:12].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-3.4462130936400004
